US05463130
GB-A 1,157,637, GB-A 1,157,638 and GB-A 1,157,639 disclose the reaction of 2-methylglutarodinitrile with diethylamine in the presence of hydrogen and palladium on barium sulfate or preferably palladium on carbon to form 5-diethylamino-2-methylvaleronitrile. Despite the long reaction time and a diethylamine excess of 200 mol % no tetraethyl derivative was found, although the diethylamino group reacts not only with the nitrile groups in position 5 but also with that in position 1 (ratio 4 to 1). DE-A 3,935,641 describes the synthesis of a secondary amine over a palladium catalyst. The reaction of dimethylaminopropionitrile takes place in this case with itself under hydrogenating conditions to form bis(3-dimethylaminopropyl)amine. The formation of a tertiary amine is achieved only when a spinel is used as support material which is considerably expensive to produce, and the yield is not more than 58%.

reactant | diethylamine | C(C)NCC | C4H11N
reactant | dimethylaminopropionitrile | CN(C)C(C#N)C | C5H10N2
catalyst | palladium | [Pd] | Pd
product | bis(3-dimethylaminopropyl)amine | yield is not more than 58% | CN(CCCNCCCN(C)C)C | C10H25N3
